US07964724B2
2-{4-[4,5-Bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-N,N-diethyl-isobutyramide (90 mg, 0.163 mmol) was reacted with phosgene (101 uL, 0.196 mmol, 20% solution in toluene) using the procedure as described in example 12 to give cis-4,5-bis-(4-chloro-phenyl)-2-[4-(1-diethylcarbamoyl-1-methyl-ethyl)-2-ethoxy-phenyl]-4,5-dihydro-imidazole-1-carbonyl chloride (56 mg, 56% yield) as white solids.

reactant | 2-{4-[4,5-Bis-(4-chloro-phenyl)-4,5-dihydro-1H-imidazol-2-yl]-3-ethoxy-phenyl}-N,N-diethyl-isobutyramide | 0.163 mmol, 90 mg | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(C(=O)N(CC)CC)(C)C)OCC | C31H35Cl2N3O2
reactant | phosgene | 0.196 mmol, 101 uL | C(=O)(Cl)Cl | CCl2O
product | cis-4,5-bis-(4-chloro-phenyl)-2-[4-(1-diethylcarbamoyl-1-methyl-ethyl)-2-ethoxy-phenyl]-4,5-dihydro-imidazole-1-carbonyl chloride | 56 mg, 56% yield | ClC1=CC=C(C=C1)[C@@H]1N=C(N([C@@H]1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(C)(C)C(N(CC)CC)=O)OCC | C32H34Cl3N3O3
